US09302989B2
N-(2-butyryl-2,3-dihydro-1H-isoindol-5-yl)-1,3-dihydro-2H-isoindole-2-carboxamide
The title compound was prepared as described in Example 278, substituting butyryl chloride for acetyl chloride and N-(isoindolin-5-yl)isoindoline-2-carboxamide for 5-amino-N-(4-(propylcarbamoyl)phenyl)isoindoline-2-carboxamide. 1H NMR (400 MHz, DMSO-d6) δ ppm 8.39 (s, 1H), 7.59-7.61 (bs, 1H), 7.43-7.48 (m, 1H), 7.30-7.41 (m, 4H), 7.22 (t, J=7.7 Hz, 1H), 4.77 (d, J=13.9 Hz, 2H), 4.77 (s, 4H), 4.55-4.60 (m, 2H), 2.33 (td, J=7.3, 3.7 Hz, 2H), 1.54-1.63 (m, 2H), 0.93 (td, J=7.3, 1.4 Hz, 3H); MS (ESI(+)) m/e 350 (M+H)+.

reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
reactant | N-(isoindolin-5-yl)isoindoline-2-carboxamide | C1NCC2=CC(=CC=C12)NC(=O)N1CC2=CC=CC=C2C1 | C17H17N3O
reactant | 5-amino-N-(4-(propylcarbamoyl)phenyl)isoindoline-2-carboxamide | NC=1C=C2CN(CC2=CC1)C(=O)NC1=CC=C(C=C1)C(NCCC)=O | C19H22N4O2
product | N-(2-butyryl-2,3-dihydro-1H-isoindol-5-yl)-1,3-dihydro-2H-isoindole-2-carboxamide | C(CCC)(=O)N1CC2=CC=C(C=C2C1)NC(=O)N1CC2=CC=CC=C2C1 | C21H23N3O2
